R1 ( net156 net120)  R=2.1E3
T2 ( net120 net96 0 0)  nfet  L=5.45E-6 W=1.02E-6
T3 ( net62 net96 0 0)  nfet  L=5.45E-6 W=1.02E-6
T4 ( net7 net120 net62 0)  nfet  L=5.45E-6 W=1.02E-6
C5 (net67 net2) C=7.9E-12
R6 ( net75 net28)  R=2.6E2
T7 ( net28 net28 vdd! vdd!)  pfet  L=3.75E-6 W=4.98E-6
T8 ( net156 net28 vdd! vdd!)  pfet  L=3.75E-6 W=4.98E-6
C9 (net46 net131) C=5.4E-5
T10 ( net21 net21 vdd! vdd!)  pfet  L=9.32E-6 W=2.52E-6
T11 ( net115 net21 vdd! vdd!)  pfet  L=9.32E-6 W=2.52E-6
R12 ( net115 net83)  R=9.8E0
C13 (net150 net78) C=9.0E-12
R14 ( net51 net24)  R=4.2E5
T15 ( net24 net24 vdd! vdd!)  pfet  L=5.52E-6 W=0.47E-6
T16 ( net17 net24 vdd! vdd!)  pfet  L=5.52E-6 W=0.47E-6
R17 (net34 net108) R=9.9E6
T18 (net64 net51 net51 0) nfet L=7.29E-6 W=6.05E-6
T19 (net130 net102 net102 0) pfet L=4.78E-6 W=3.85E-6
T20 (net121 net91 net91 0) nfet L=7.58E-6 W=4.11E-6
T21 (net7 net124 net124 0) pfet L=0.19E-6 W=4.95E-6
R22 (net19 net54) R=3.9E5
T23 (net107 net123 net123 0) pfet L=3.83E-6 W=7.93E-6
T24 (net74 net124 net124 0) nfet L=0.38E-6 W=8.59E-6
T25 (net117 net104 net104 0) pfet L=1.87E-6 W=5.96E-6
C26 (net101 net121) C=9.0E-10
T27 (net90 net82 net82 0) nfet L=2.23E-6 W=8.57E-6
R28 (net116 net136) R=2.3E1
C29 (net145 net1) C=5.4E-12
T30 (net35 0 0 0) nfet L=6.33E-6 W=9.84E-6
T31 (net100 net12 net12 0) nfet L=4.05E-6 W=1.52E-6
T32 (net38 net42 net42 0) nfet L=2.34E-6 W=1.64E-6
T33 (net9 net153 net153 0) nfet L=9.41E-6 W=4.46E-6
R34 (net65 net117) R=3.7E6
R35 (net151 net39) R=1.3E2
T36 (net140 net84 net84 0) pfet L=2.05E-6 W=1.03E-6
T37 (net128 0 0 0) nfet L=1.68E-6 W=2.74E-6
T38 (net58 net18 net18 0) nfet L=2.83E-6 W=4.02E-6
T39 (net69 net75 net75 0) nfet L=3.58E-6 W=6.36E-6
T40 (net63 net85 net85 0) pfet L=7.22E-6 W=4.27E-6
R41 (vdd! net39) R=0.2E3
T42 (net150 net135 net135 0) nfet L=0.88E-6 W=0.46E-6
T43 (net20 net19 net19 0) pfet L=6.66E-6 W=4.12E-6
T44 (net27 net26 net26 0) nfet L=5.06E-6 W=7.24E-6
T45 (net91 net121 net121 0) nfet L=5.91E-6 W=8.00E-6
C46 (net135 net49) C=4.7E-13
T47 (0 net6 net6 0) pfet L=0.62E-6 W=2.91E-6
C48 (net128 net41) C=3.2E-9
R49 (0 net72) R=2.6E6
T50 (net140 net41 net41 0) pfet L=2.82E-6 W=7.89E-6
T51 (net39 net56 net56 0) nfet L=9.03E-6 W=0.20E-6
T52 (net136 0 0 0) pfet L=4.14E-6 W=8.64E-6
T53 (net63 net32 net32 0) pfet L=7.43E-6 W=4.38E-6
R54 (net8 net42) R=4.0E1
R55 (0 net43) R=7.7E6
T56 (net152 net7 net7 0) pfet L=6.25E-6 W=3.66E-6
C57 (net131 net12) C=6.3E-11
T58 (net135 net134 net134 0) nfet L=3.74E-6 W=7.76E-6
T59 (vdd! net21 net21 0) nfet L=7.64E-6 W=0.70E-6
C60 (net5 net54) C=7.3E-8
C61 (net131 net94) C=5.2E-13
T62 (net79 net112 net112 0) nfet L=3.86E-6 W=3.99E-6
R63 (net80 vdd!) R=0.4E5
C64 (net46 net88) C=0.5E-10
T65 (net12 net112 net112 0) nfet L=0.27E-6 W=7.65E-6
C66 (net65 net22) C=6.2E-12
T67 (net154 net128 net128 0) pfet L=0.40E-6 W=8.67E-6
T68 (net118 net106 net106 0) pfet L=1.53E-6 W=6.06E-6
T69 (0 net76 net76 0) pfet L=8.56E-6 W=0.70E-6
C70 (net20 net40) C=0.1E-12
T71 (net48 0 0 0) nfet L=1.85E-6 W=2.39E-6
T72 (net42 net81 net81 0) nfet L=9.77E-6 W=5.76E-6
R73 (net143 net31) R=8.1E6
C74 (net52 net127) C=1.9E-12
T75 (net9 net18 net18 0) pfet L=0.76E-6 W=8.11E-6
T76 (net75 net155 net155 0) nfet L=0.21E-6 W=0.28E-6
T77 (net95 net16 net16 0) nfet L=2.32E-6 W=9.23E-6
R78 (net152 net143) R=5.9E5
T79 (net138 net65 net65 0) pfet L=3.20E-6 W=3.22E-6
C80 (net41 net14) C=8.9E-8
C81 (net80 net76) C=7.6E-13
T82 (net49 net42 net42 0) pfet L=7.20E-6 W=1.15E-6
C83 (net30 net69) C=0.4E-10
R84 (net6 net118) R=5.8E4
T85 (net57 net141 net141 0) pfet L=3.72E-6 W=8.92E-6
C86 (net103 net122) C=2.6E-14
C87 (net72 net57) C=2.4E-10
R88 (net97 net29) R=8.4E2
R89 (net14 net140) R=3.4E4
C90 (net44 net144) C=3.1E-8
T91 (net124 net140 net140 0) pfet L=4.35E-6 W=6.76E-6
T92 (net40 net90 net90 0) nfet L=8.82E-6 W=9.89E-6
C93 (vdd! net105) C=8.3E-9
T94 (net33 net20 net20 0) nfet L=1.16E-6 W=5.98E-6
C95 (net60 net22) C=8.1E-8
T96 (net69 net50 net50 0) pfet L=0.45E-6 W=9.13E-6
T97 (0 net151 net151 0) nfet L=0.60E-6 W=1.26E-6
T98 (net118 net88 net88 0) nfet L=6.66E-6 W=7.00E-6
C99 (net98 net60) C=9.4E-6
R100 (net33 net8) R=1.7E5
T101 (net147 net91 net91 0) nfet L=7.71E-6 W=5.30E-6
T102 (0 net129 net129 0) nfet L=7.09E-6 W=7.25E-6
R103 (net85 vdd!) R=3.0E5
R104 (0 net144) R=3.0E5
R105 (net103 net11) R=5.3E3
R106 (net21 net46) R=2.4E4
T107 (net17 net47 net47 0) pfet L=7.35E-6 W=3.79E-6
C108 (net8 net52) C=3.1E-7
T109 (net92 net154 net154 0) pfet L=9.34E-6 W=7.23E-6
C110 (net70 net100) C=4.8E-7
C111 (net145 net53) C=6.8E-8
T112 (net94 net140 net140 0) nfet L=7.00E-6 W=8.76E-6
C113 (net50 net110) C=7.9E-5
R114 (0 net109) R=1.2E2
C115 (net132 0) C=4.0E-10
T116 (net8 0 0 0) nfet L=5.32E-6 W=6.23E-6
T117 (net133 net141 net141 0) pfet L=3.50E-6 W=2.24E-6
T118 (net150 net21 net21 0) pfet L=9.86E-6 W=9.09E-6
C119 (net137 net92) C=9.4E-10
T120 (0 net32 net32 0) pfet L=5.23E-6 W=9.57E-6
T121 (net77 net7 net7 0) nfet L=3.24E-6 W=2.45E-6
C122 (0 net61) C=4.0E-9
R123 (net137 net30) R=1.1E4
T124 (net42 net34 net34 0) pfet L=2.37E-6 W=1.63E-6
C125 (net16 net113) C=0.3E-10
T126 (net71 net78 net78 0) nfet L=5.03E-6 W=6.29E-6
R127 (net59 net133) R=3.5E4
R128 (net75 net129) R=9.0E1
R129 (net129 net102) R=6.5E3
R130 (net30 net90) R=7.0E2
T131 (net112 net61 net61 0) pfet L=7.56E-6 W=5.35E-6
C132 (0 net102) C=7.6E-11
C133 (net142 net98) C=2.8E-11
T134 (net138 net33 net33 0) pfet L=9.95E-6 W=8.28E-6
R135 (net3 net86) R=3.2E3
T136 (net145 net128 net128 0) pfet L=9.35E-6 W=0.97E-6
R137 (net113 net144) R=2.0E5
C138 (net123 net133) C=5.3E-14
T139 (net50 net40 net40 0) pfet L=6.63E-6 W=1.63E-6
T140 (net15 net137 net137 0) pfet L=3.95E-6 W=8.37E-6
C141 (net139 vdd!) C=3.2E-9
C142 (net147 net73) C=1.1E-14
T143 (net86 net154 net154 0) nfet L=5.86E-6 W=6.20E-6
R144 (net13 net78) R=7.6E0
C145 (net141 net98) C=6.8E-7
R146 (0 net129) R=8.8E0
C147 (net139 0) C=5.5E-13
T148 (net17 net76 net76 0) pfet L=7.82E-6 W=5.57E-6
C149 (net138 net131) C=3.7E-14
R150 (net98 net76) R=9.6E1
T151 (net10 net114 net114 0) nfet L=4.14E-6 W=6.35E-6
C152 (net108 net17) C=4.9E-9
C153 (net5 net113) C=5.9E-10
T154 (net27 net70 net70 0) pfet L=6.51E-6 W=5.92E-6
T155 (net104 net140 net140 0) pfet L=3.71E-6 W=6.46E-6
T156 (net41 net37 net37 0) nfet L=6.45E-6 W=8.70E-6
T157 (net80 net56 net56 0) pfet L=8.45E-6 W=2.35E-6
R158 (net110 net131) R=1.2E3
T159 (net45 net66 net66 0) nfet L=7.88E-6 W=3.83E-6
T160 (net122 net108 net108 0) pfet L=2.19E-6 W=1.81E-6
R161 (vdd! net7) R=8.8E6
R162 (net68 net67) R=1.5E5
T163 (net43 net98 net98 0) pfet L=2.25E-6 W=1.16E-6
T164 (net71 net95 net95 0) nfet L=3.22E-6 W=6.81E-6
T165 (net74 net75 net75 0) nfet L=3.78E-6 W=6.59E-6
R166 (net91 net47) R=0.4E4
T167 (net88 net21 net21 0) pfet L=6.38E-6 W=3.01E-6
R168 (net41 net100) R=7.1E6
C169 (net44 vdd!) C=8.5E-6
R170 (net46 vdd!) R=6.2E4
T171 (net19 net107 net107 0) pfet L=2.95E-6 W=2.27E-6
C172 (net17 net40) C=2.3E-14
R173 (net32 net139) R=7.6E2
T174 (0 net134 net134 0) nfet L=4.57E-6 W=4.77E-6
T175 (net132 net68 net68 0) pfet L=4.14E-6 W=2.33E-6
T176 (net111 net105 net105 0) pfet L=0.68E-6 W=9.83E-6
C177 (net14 net103) C=8.1E-13
C178 (net149 net144) C=0.1E-9
C179 (net36 net57) C=4.7E-10
C180 (net128 net57) C=3.4E-6
T181 (0 net76 net76 0) pfet L=3.03E-6 W=1.95E-6
T182 (net46 net42 net42 0) pfet L=6.40E-6 W=6.90E-6
T183 (net103 net132 net132 0) pfet L=9.43E-6 W=9.27E-6
T184 (net146 net12 net12 0) pfet L=8.88E-6 W=8.91E-6
T185 (net93 net139 net139 0) nfet L=0.15E-6 W=9.12E-6
T186 (net40 vdd! vdd! 0) pfet L=7.28E-6 W=0.84E-6
T187 (net47 net31 net31 0) nfet L=9.63E-6 W=9.19E-6
R188 (net111 net84) R=9.6E2
R189 (net104 net11) R=7.0E6
R190 (0 net138) R=9.1E1
R191 (net47 net22) R=4.5E0
C192 (net130 net27) C=1.4E-13
T193 (net128 net78 net78 0) nfet L=2.78E-6 W=7.19E-6
C194 (net61 0) C=4.0E-9
C195 (net138 net145) C=4.5E-6
T196 (net102 net99 net99 0) nfet L=6.60E-6 W=2.11E-6
R197 (net14 net29) R=3.3E4
T198 (net30 net144 net144 0) pfet L=8.30E-6 W=6.08E-6
C199 (net103 net145) C=3.1E-14
R200 (0 net136) R=0.5E2
C201 (net50 net40) C=9.7E-10
T202 (net103 net39 net39 0) nfet L=9.94E-6 W=8.42E-6
R203 (net133 net132) R=1.4E6
T204 (net89 net81 net81 0) pfet L=7.83E-6 W=8.07E-6
R205 (net117 net26) R=5.7E0
T206 (net12 net81 net81 0) nfet L=9.38E-6 W=3.91E-6
T207 (vdd! net68 net68 0) nfet L=9.58E-6 W=7.38E-6
R208 (net16 0) R=6.6E4

