C1 (vdd! net11) C=6.8E-13
T2 (net26 net22 net22 0) pfet L=3.11E-6 W=8.36E-6
T3 (net14 net5 net5 0) pfet L=6.42E-6 W=1.40E-6
R4 ( net13 net18)  R=1.9E5
T5 ( net18 net1 vdd! vdd!)  pfet  L=3.44E-6 W=5.81E-6
T6 ( net9 net1 vdd! vdd!)  pfet  L=3.44E-6 W=5.81E-6
T7 ( 0 net18 net1 vdd!)  pfet  L=3.44E-6 W=5.81E-6
R8 (net30 net14) R=5.5E4
R9 ( net33 net10)  R=6.4E2
T10 ( net10 net16 vdd! vdd!)  pfet  L=1.30E-6 W=0.99E-6
T11 ( net12 net16 vdd! vdd!)  pfet  L=1.30E-6 W=0.99E-6
T12 ( net9 net10 net12 vdd!)  pfet  L=1.30E-6 W=0.99E-6
T13 (net3 net34 net34 0) pfet L=4.26E-6 W=8.28E-6
C14 (net4 net6) C=9.6E-12
R15 ( net9 net24)  R=3.7E0
T16 ( net24 net30 0 0)  nfet  L=4.99E-6 W=9.08E-6
T17 ( vdd! net30 0 0)  nfet  L=4.99E-6 W=9.08E-6
T18 ( vdd! net24 net30 0)  nfet  L=4.99E-6 W=9.08E-6
R19 (net21 net27) R=4.0E2
R20 ( net31 net26)  R=2.6E6
T21 ( net26 net23 vdd! vdd!)  pfet  L=6.28E-6 W=2.73E-6
T22 ( net29 net23 vdd! vdd!)  pfet  L=6.28E-6 W=2.73E-6
T23 ( net4 net26 net29 vdd!)  pfet  L=6.28E-6 W=2.73E-6
T24 (net27 net31 net31 0) pfet L=1.91E-6 W=0.34E-6
R25 (net9 net17) R=8.8E0
T26 (net32 net33 net33 0) nfet L=4.39E-6 W=6.54E-6
C27 (net32 net28) C=2.8E-9
T28 (net28 net13 net13 0) nfet L=4.81E-6 W=2.84E-6
T29 (net4 net21 net21 0) nfet L=7.27E-6 W=3.08E-6
T30 (net8 net15 net15 0) pfet L=2.34E-6 W=1.20E-6
R31 (net25 net5) R=9.4E0
R32 (net17 net20) R=0.4E3
C33 (net21 net17) C=0.8E-14
R34 (net7 net15) R=4.0E5
C35 (vdd! net9) C=7.7E-12
R36 (net19 net15) R=2.9E5
R37 (net2 net28) R=0.6E3
T38 (net22 net8 net8 0) pfet L=4.04E-6 W=3.90E-6

