R1 ( vdd! net38)  R=8.4E4
T2 ( net38 net50 vdd! vdd!)  pfet  L=9.09E-6 W=3.67E-6
T3 ( net41 net50 vdd! vdd!)  pfet  L=9.09E-6 W=3.67E-6
T4 ( 0 net38 net50 vdd!)  pfet  L=9.09E-6 W=3.67E-6
R5 (net28 0) R=0.7E5
R6 ( net34 net48)  R=1.0E1
T7 ( net48 net48 0 0)  nfet  L=7.60E-6 W=6.96E-6
T8 ( net30 net48 0 0)  nfet  L=7.60E-6 W=6.96E-6
C9 (net16 net30) C=3.8E-13
T10 (net46 net19 net19 0) pfet L=7.05E-6 W=6.91E-6
T11 (net43 net40 net40 0) nfet L=4.68E-6 W=9.42E-6
T12 (net25 net9 net9 0) pfet L=1.58E-6 W=1.26E-6
T13 (net30 net41 net41 0) pfet L=0.52E-6 W=5.14E-6
R14 ( net35 net12)  R=6.0E3
T15 ( net12 net34 vdd! vdd!)  pfet  L=6.36E-6 W=7.39E-6
T16 ( net11 net34 vdd! vdd!)  pfet  L=6.36E-6 W=7.39E-6
T17 ( net32 net12 net11 vdd!)  pfet  L=6.36E-6 W=7.39E-6
R18 (net13 net37) R=8.2E4
T19 ( net16 net16 0 0)  nfet  L=8.12E-6 W=8.01E-6
T20 ( net31 net16 0 0)  nfet  L=8.12E-6 W=8.01E-6
R21 ( net31 net27)  R=6.1E5
T22 (0 vdd! vdd! 0) pfet L=4.11E-6 W=7.16E-6
T23 (net36 net9 net9 0) pfet L=1.98E-6 W=5.10E-6
T24 (net25 net37 net37 0) pfet L=8.98E-6 W=7.01E-6
T25 (0 net35 net35 0) nfet L=5.02E-6 W=0.57E-6
R26 (net41 net40) R=0.9E0
R27 (net29 net20) R=3.0E4
T28 (net21 net2 net2 0) pfet L=3.86E-6 W=1.48E-6
T29 (net10 net30 net30 0) nfet L=0.68E-6 W=9.55E-6
C30 (net30 net46) C=4.9E-13
R31 (net6 0) R=6.0E0
R32 (net27 net44) R=7.9E1
T33 (net36 net10 net10 0) pfet L=9.57E-6 W=3.87E-6
T34 (net37 net7 net7 0) pfet L=2.12E-6 W=1.91E-6
C35 (net22 net16) C=2.0E-8
T36 (net29 net13 net13 0) nfet L=6.27E-6 W=6.91E-6
R37 (vdd! net33) R=6.0E0
T38 (net42 net19 net19 0) pfet L=3.79E-6 W=4.55E-6
T39 (net40 net46 net46 0) pfet L=0.80E-6 W=3.32E-6
R40 (net17 vdd!) R=4.8E5
C41 (net14 net5) C=3.3E-7
C42 (net22 net46) C=5.2E-9
T43 (net20 net10 net10 0) nfet L=3.33E-6 W=4.50E-6
T44 (0 net27 net27 0) pfet L=7.78E-6 W=1.78E-6
C45 (0 net23) C=6.9E-12
T46 (net41 0 0 0) pfet L=5.45E-6 W=6.45E-6
T47 (net43 net43 net43 0) nfet L=3.31E-6 W=7.81E-6
T48 (net8 net19 net19 0) pfet L=7.81E-6 W=3.41E-6
C49 (net47 0) C=4.5E-6
R50 (net29 net49) R=3.1E4
C51 (net23 vdd!) C=2.0E-8
C52 (net17 net20) C=6.9E-8
C53 (net25 net47) C=6.9E-12
T54 (net32 net49 net49 0) pfet L=5.70E-6 W=6.96E-6
T55 (net41 net3 net3 0) nfet L=0.38E-6 W=4.10E-6
T56 (net40 net23 net23 0) pfet L=1.70E-6 W=1.54E-6
T57 (net36 net44 net44 0) pfet L=9.57E-6 W=5.35E-6
T58 (net28 net24 net24 0) pfet L=8.95E-6 W=2.56E-6
C59 (net16 net5) C=7.4E-10
R60 (net1 net15) R=1.4E6
T61 (net44 net44 net44 0) pfet L=2.19E-6 W=2.80E-6
T62 (net45 net39 net39 0) pfet L=4.75E-6 W=7.17E-6
T63 (net13 net2 net2 0) nfet L=4.35E-6 W=9.31E-6
T64 (0 net16 net16 0) nfet L=5.93E-6 W=4.06E-6
T65 (net25 net16 net16 0) pfet L=3.32E-6 W=6.12E-6
C66 (net46 net5) C=3.1E-9
T67 (net9 net27 net27 0) nfet L=4.01E-6 W=5.12E-6
T68 (net36 net16 net16 0) pfet L=9.45E-6 W=5.43E-6
T69 (net29 net46 net46 0) pfet L=8.01E-6 W=9.83E-6
T70 (net2 net41 net41 0) nfet L=1.54E-6 W=6.11E-6
C71 (net8 net9) C=9.1E-10
T72 (net10 net26 net26 0) nfet L=7.42E-6 W=4.27E-6
C73 (net1 net23) C=6.2E-14
T74 (net44 net29 net29 0) nfet L=7.84E-6 W=8.97E-6
T75 (net3 net25 net25 0) nfet L=1.45E-6 W=7.16E-6
R76 (net27 net25) R=6.0E5
T77 (net2 net6 net6 0) nfet L=1.06E-6 W=5.53E-6
R78 (net27 net18) R=0.9E6
T79 (net37 net20 net20 0) pfet L=9.83E-6 W=0.32E-6
R80 (net27 net24) R=4.7E0
C81 (net17 net9) C=9.6E-13
C82 (net47 vdd!) C=0.6E-13
T83 (net4 net17 net17 0) pfet L=2.11E-6 W=9.46E-6
T84 (net43 net16 net16 0) pfet L=5.45E-6 W=0.59E-6
T85 (vdd! net2 net2 0) pfet L=6.50E-6 W=9.09E-6
T86 (net3 net47 net47 0) pfet L=7.29E-6 W=9.98E-6
C87 (net46 net42) C=4.0E-12
R88 (net33 net20) R=7.5E3
T89 (net39 net6 net6 0) pfet L=9.84E-6 W=5.81E-6
R90 (net46 net18) R=3.0E4
R91 (net14 net46) R=1.3E0
T92 (net28 net33 net33 0) nfet L=7.30E-6 W=7.78E-6
R93 (net32 net4) R=2.8E1
T94 (net25 net5 net5 0) pfet L=1.48E-6 W=3.01E-6
T95 (net8 net40 net40 0) nfet L=6.54E-6 W=7.66E-6
R96 (net33 net17) R=0.3E3
C97 (net5 net1) C=0.4E-9
R98 (net28 net37) R=4.8E4
T99 (net37 net25 net25 0) nfet L=1.25E-6 W=6.06E-6
T100 (vdd! net37 net37 0) nfet L=8.20E-6 W=9.58E-6
R101 (net46 net22) R=9.0E5
R102 (net32 net43) R=7.7E5
C103 (vdd! net9) C=4.8E-12
C104 (0 net25) C=7.8E-12
T105 (net13 net1 net1 0) pfet L=4.32E-6 W=6.22E-6
T106 (net20 net36 net36 0) pfet L=2.02E-6 W=2.01E-6
R107 (net49 net8) R=8.5E3
R108 (vdd! net42) R=4.7E3
T109 (net18 net3 net3 0) nfet L=8.39E-6 W=3.45E-6
T110 (net42 net49 net49 0) pfet L=6.00E-6 W=7.24E-6
C111 (net40 vdd!) C=3.8E-12
C112 (net27 net17) C=2.5E-5
T113 (0 net24 net24 0) pfet L=6.07E-6 W=5.77E-6
R114 (net32 net44) R=8.6E3
C115 (net1 vdd!) C=8.1E-11
T116 (net13 net18 net18 0) pfet L=4.51E-6 W=1.14E-6
T117 (net18 net43 net43 0) nfet L=5.90E-6 W=8.89E-6
R118 (net21 net17) R=2.3E3
R119 (net14 net13) R=0.2E5
T120 (net30 net36 net36 0) pfet L=9.59E-6 W=8.13E-6
T121 (net7 net35 net35 0) nfet L=3.99E-6 W=9.85E-6
R122 (vdd! net37) R=3.5E2
R123 (0 net33) R=6.6E6
C124 (net46 net13) C=2.8E-6
T125 (net9 net9 net9 0) nfet L=0.42E-6 W=2.97E-6
T126 (net3 net4 net4 0) pfet L=3.98E-6 W=0.49E-6
R127 (vdd! net13) R=5.9E1
C128 (vdd! net18) C=3.1E-8
T129 (net39 net44 net44 0) pfet L=3.62E-6 W=8.47E-6
T130 (net49 net8 net8 0) nfet L=9.02E-6 W=7.64E-6
C131 (net8 net16) C=1.8E-8
T132 (net24 0 0 0) nfet L=2.78E-6 W=4.43E-6
T133 (net24 net47 net47 0) pfet L=5.41E-6 W=9.19E-6
T134 (net8 net28 net28 0) pfet L=9.35E-6 W=5.83E-6
T135 (net9 net27 net27 0) pfet L=5.45E-6 W=6.10E-6
T136 (net26 net41 net41 0) pfet L=6.14E-6 W=2.80E-6
T137 (net46 net36 net36 0) nfet L=7.78E-6 W=8.44E-6
T138 (net5 net37 net37 0) pfet L=2.84E-6 W=2.40E-6

