R1 (net5 net6) R=3.8E2
T2 (net11 net2 net2 0) pfet L=8.91E-6 W=5.10E-6
T3 ( net6 net6 0 0)  nfet  L=8.22E-6 W=1.06E-6
T4 ( net5 net6 0 0)  nfet  L=8.22E-6 W=1.06E-6
R5 ( net5 net18)  R=9.2E6
R6 (net10 net16) R=8.1E3
R7 ( net14 net17)  R=4.0E5
T8 ( net17 net25 vdd! vdd!)  pfet  L=2.43E-6 W=6.07E-6
T9 ( net6 net25 vdd! vdd!)  pfet  L=2.43E-6 W=6.07E-6
T10 ( net7 net17 net6 vdd!)  pfet  L=2.43E-6 W=6.07E-6
R11 (0 net19) R=7.2E1
T12 (net19 net24 net24 0) pfet L=7.82E-6 W=9.48E-6
R13 ( net21 net18)  R=0.6E3
T14 ( net18 net18 net11 vdd!)  pfet  L=7.27E-6 W=7.61E-6
T15 ( net11 net23 vdd! vdd!)  pfet  L=7.27E-6 W=7.61E-6
T16 ( net23 net23 vdd! vdd!)  pfet  L=7.27E-6 W=7.61E-6
T17 ( net4 net18 net23 vdd!)  pfet  L=7.27E-6 W=7.61E-6
T18 (net16 net10 net10 0) pfet L=2.61E-6 W=9.60E-6

