R1 (net47 net22) R=0.9E1
T2 (net53 net39 net39 0) nfet L=3.27E-6 W=6.45E-6
C3 (net40 net21) C=2.4E-14
R4 ( net49 net10)  R=2.6E6
T5 ( net10 net10 0 0)  nfet  L=1.19E-6 W=0.53E-6
T6 ( net49 net10 0 0)  nfet  L=1.19E-6 W=0.53E-6
T7 (net33 vdd! vdd! 0) nfet L=9.14E-6 W=5.38E-6
R8 (net47 net19) R=7.1E6
R9 ( net9 net34)  R=4.4E6
T10 ( net34 net34 net14 0)  nfet  L=3.99E-6 W=8.36E-6
T11 ( net14 net24 0 0)  nfet  L=3.99E-6 W=8.36E-6
T12 ( net24 net24 0 0)  nfet  L=3.99E-6 W=8.36E-6
T13 ( 0 net34 net24 0)  nfet  L=3.99E-6 W=8.36E-6
C14 (net20 net36) C=9.7E-10
T15 (net53 net18 net18 0) nfet L=5.95E-6 W=4.82E-6
R16 ( vdd! net22)  R=3.5E3
T17 ( net22 net22 net32 0)  nfet  L=5.75E-6 W=9.72E-6
T18 ( net32 net39 0 0)  nfet  L=5.75E-6 W=9.72E-6
T19 ( net39 net39 0 0)  nfet  L=5.75E-6 W=9.72E-6
T20 ( net31 net22 net39 0)  nfet  L=5.75E-6 W=9.72E-6
R21 (net20 net36) R=6.6E4
R22 ( net51 net30)  R=3.6E3
T23 ( net30 net30 net1 0)  nfet  L=9.34E-6 W=6.97E-6
T24 ( net1 net23 0 0)  nfet  L=9.34E-6 W=6.97E-6
T25 ( net23 net23 0 0)  nfet  L=9.34E-6 W=6.97E-6
T26 ( net44 net30 net23 0)  nfet  L=9.34E-6 W=6.97E-6
T27 (0 net41 net41 0) pfet L=5.73E-6 W=3.76E-6
R28 (net43 net13) R=4.6E4
R29 (net13 net29) R=7.3E6
C30 (net49 net37) C=6.1E-5
R31 (net2 net15) R=8.5E4
R32 (net26 vdd!) R=0.6E2
T33 (net51 net54 net54 0) nfet L=5.12E-6 W=4.62E-6
R34 (net41 vdd!) R=3.1E6
T35 (net47 net21 net21 0) pfet L=0.11E-6 W=7.57E-6
T36 (net35 net9 net9 0) nfet L=1.03E-6 W=8.41E-6
C37 (net25 net20) C=2.2E-10
T38 (net38 net53 net53 0) pfet L=8.03E-6 W=8.99E-6
C39 (net15 net27) C=2.6E-11
T40 (net41 0 0 0) nfet L=5.14E-6 W=1.47E-6
C41 (net11 vdd!) C=2.7E-6
R42 (net47 vdd!) R=0.2E2
T43 (net18 net17 net17 0) nfet L=8.72E-6 W=4.20E-6
C44 (net36 net46) C=6.7E-5
C45 (net44 net48) C=9.1E-13
T46 (net18 net12 net12 0) pfet L=6.33E-6 W=7.79E-6
T47 (net9 net46 net46 0) pfet L=0.72E-6 W=7.04E-6
C48 (net15 net6) C=6.9E-10
C49 (net29 net44) C=8.5E-5
R50 (vdd! 0) R=2.5E6
T51 (net26 net50 net50 0) nfet L=1.26E-6 W=4.90E-6
T52 (net19 net3 net3 0) nfet L=9.26E-6 W=1.16E-6
C53 (net50 net45) C=3.3E-10
T54 (net20 net37 net37 0) nfet L=6.29E-6 W=6.21E-6
C55 (net55 net53) C=0.8E-11
R56 (net26 vdd!) R=2.0E0
T57 (net12 net31 net31 0) nfet L=3.34E-6 W=7.68E-6
R58 (net15 net9) R=7.0E1
T59 (net15 net4 net4 0) nfet L=1.71E-6 W=6.78E-6
C60 (net7 net17) C=7.7E-8
T61 (net3 net21 net21 0) pfet L=3.88E-6 W=8.38E-6
T62 (vdd! net40 net40 0) nfet L=3.17E-6 W=1.98E-6
T63 (net44 net47 net47 0) nfet L=5.51E-6 W=9.01E-6
T64 (net36 net28 net28 0) pfet L=9.25E-6 W=1.30E-6
T65 (net11 net29 net29 0) nfet L=7.64E-6 W=0.74E-6
C66 (net5 net28) C=6.2E-12
T67 (vdd! net28 net28 0) nfet L=5.78E-6 W=7.90E-6
C68 (0 net37) C=5.9E-8
R69 (net19 net52) R=1.4E6
T70 (net18 net11 net11 0) nfet L=6.58E-6 W=0.27E-6
T71 (vdd! net48 net48 0) nfet L=2.29E-6 W=7.38E-6
C72 (net7 net11) C=0.7E-11
R73 (net11 net52) R=6.0E5
T74 (net55 net42 net42 0) pfet L=0.63E-6 W=7.98E-6
R75 (net29 net36) R=6.3E1
T76 (net2 net42 net42 0) nfet L=1.18E-6 W=5.15E-6
T77 (net37 net37 net37 0) nfet L=2.96E-6 W=9.04E-6
T78 (net51 vdd! vdd! 0) pfet L=5.11E-6 W=6.99E-6
C79 (net17 net29) C=7.0E-9
R80 (net44 net7) R=5.0E4
C81 (net6 net16) C=5.9E-9
T82 (net7 net28 net28 0) nfet L=3.11E-6 W=5.15E-6
T83 (vdd! 0 0 0) nfet L=2.30E-6 W=2.91E-6
T84 (net48 net56 net56 0) nfet L=4.23E-6 W=5.35E-6
T85 (net48 net15 net15 0) nfet L=5.25E-6 W=3.36E-6
C86 (net7 net9) C=2.1E-14
T87 (net43 net4 net4 0) nfet L=9.69E-6 W=9.11E-6
R88 (net47 net31) R=3.8E5
T89 (net29 net19 net19 0) pfet L=9.15E-6 W=8.86E-6
T90 (net56 vdd! vdd! 0) pfet L=7.56E-6 W=8.54E-6
R91 (net5 vdd!) R=9.9E2
T92 (net53 net51 net51 0) pfet L=0.28E-6 W=9.58E-6
R93 (net6 net8) R=6.1E5
T94 (0 net15 net15 0) nfet L=7.97E-6 W=0.74E-6
R95 (net11 net35) R=4.4E0
T96 (net42 net21 net21 0) pfet L=1.15E-6 W=9.85E-6
T97 (net25 0 0 0) nfet L=8.58E-6 W=0.23E-6
T98 (net29 net52 net52 0) nfet L=3.86E-6 W=8.49E-6
R99 (net3 net41) R=7.4E3
T100 (net26 net38 net38 0) nfet L=5.60E-6 W=4.98E-6
R101 (net37 net38) R=5.7E2
T102 (net13 net54 net54 0) nfet L=3.67E-6 W=0.27E-6
R103 (net18 net35) R=0.4E1
C104 (net28 net46) C=2.6E-10
T105 (net47 net48 net48 0) pfet L=3.73E-6 W=1.75E-6
T106 (net21 net28 net28 0) pfet L=0.50E-6 W=6.48E-6
C107 (net27 net46) C=0.9E-10
C108 (0 net7) C=4.1E-12
C109 (net29 net48) C=5.7E-12
T110 (net18 net8 net8 0) pfet L=8.96E-6 W=0.47E-6
C111 (net47 net3) C=7.2E-9
C112 (net21 net3) C=9.4E-7
T113 (net35 net46 net46 0) nfet L=9.96E-6 W=0.83E-6
R114 (vdd! net7) R=9.0E1
C115 (net16 net48) C=1.2E-13
T116 (net3 net38 net38 0) pfet L=1.99E-6 W=4.64E-6
T117 (net13 net8 net8 0) nfet L=9.67E-6 W=0.16E-6
T118 (net55 net5 net5 0) pfet L=6.32E-6 W=8.04E-6
R119 (net47 vdd!) R=6.7E1

