R1 ( net24 net43)  R=0.4E1
T2 ( net43 net10 vdd! vdd!)  pfet  L=6.71E-6 W=5.55E-6
T3 ( net20 net10 vdd! vdd!)  pfet  L=6.71E-6 W=5.55E-6
T4 ( net16 net43 net20 vdd!)  pfet  L=6.71E-6 W=5.55E-6
R5 (net30 net40) R=2.3E2
R6 ( net8 net40)  R=4.0E0
T7 ( net40 net40 net34 vdd!)  pfet  L=5.42E-6 W=4.82E-6
T8 ( net34 net17 vdd! vdd!)  pfet  L=5.42E-6 W=4.82E-6
T9 ( net17 net17 vdd! vdd!)  pfet  L=5.42E-6 W=4.82E-6
T10 ( net3 net40 net17 vdd!)  pfet  L=5.42E-6 W=4.82E-6
C11 (net23 net7) C=1.7E-13
T12 ( net4 net4 vdd! vdd!)  pfet  L=2.42E-6 W=7.56E-6
T13 ( net18 net4 vdd! vdd!)  pfet  L=2.42E-6 W=7.56E-6
R14 ( net18 0)  R=3.2E2
T15 (net11 vdd! vdd! 0) pfet L=2.17E-6 W=6.31E-6
R16 ( net32 net21)  R=6.3E1
T17 ( net21 net21 vdd! vdd!)  pfet  L=2.08E-6 W=4.69E-6
T18 ( 0 net21 vdd! vdd!)  pfet  L=2.08E-6 W=4.69E-6
T19 (net33 net27 net27 0) nfet L=5.61E-6 W=1.21E-6
R20 (net33 net41) R=1.9E1
R21 (net13 vdd!) R=9.3E0
C22 (net3 net8) C=5.0E-12
T23 (net42 net27 net27 0) nfet L=8.19E-6 W=7.75E-6
C24 (net2 net39) C=9.8E-8
C25 (vdd! net25) C=1.2E-10
R26 (0 net6) R=2.2E3
T27 (net30 net12 net12 0) pfet L=3.72E-6 W=3.49E-6
T28 (net4 net6 net6 0) pfet L=9.39E-6 W=5.81E-6
T29 (net30 net13 net13 0) nfet L=5.90E-6 W=3.53E-6
T30 (net28 net35 net35 0) nfet L=7.70E-6 W=9.90E-6
C31 (net29 net11) C=2.5E-5
R32 (net25 net11) R=3.7E4
T33 (net26 net3 net3 0) pfet L=7.96E-6 W=8.57E-6
R34 (net23 0) R=6.4E4
T35 (net25 net16 net16 0) nfet L=5.00E-6 W=6.71E-6
C36 (net26 net39) C=3.2E-14
T37 (vdd! net8 net8 0) pfet L=7.12E-6 W=3.05E-6
T38 (net6 net1 net1 0) pfet L=2.15E-6 W=3.63E-6
C39 (net33 net16) C=4.0E-11
R40 (net42 net33) R=6.3E2

